US09278950B2
Step 6. 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-piperidin-4-ylquinoline-2-carboxamide
To a screw-cap vial equipped with a magnetic stir bar was added benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate (56.4 mg, 0.0795 mmol), benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate (Ark Pharm, 48.2 mg, 0.140 mmol), chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) (Aldrich, 3.2 mg, 0.0041 mmol) and K3PO4 (53.4 mg, 0.252 mmol). The vial was sealed with a Teflon®-lined septum, and was then evacuated and backfilled with nitrogen three times. 1,4-Dioxane (1.00 mL) was added via a syringe, followed by deoxygenated water (0.50 mL). The mixture was heated at 60° C. for 1 h. After cooling to room temperature, the reaction mixture was filtered through a silica gel plug (eluted with MeCN), and concentrated under reduced pressure. The resulting residue was dissolved in MeOH (4.0 mL) and 10 wt % Pd on carbon (43.4 mg, 0.0408 mmol) was added. The mixture was stirred at room temperature under hydrogen (1 atm.) for 15 h. The reaction mixture was then filtered through a pad of diatomaceous earth (eluted with MeOH) and concentrated under reduced pressure. The resulting residue was purified using RP-HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.05% TFA, at a flow rate of 30 mL/min.) to afford the title compound tetrakistrifluoroacetate salt as a yellow solid (13.1 mg, 18%). LCMS calc. for C25H32N7O (M+H)+: m/z=446.3. found 446.2. 1H NMR (500 MHz, DMSO-d6) δ 10.75 (s, 1H), 8.98 (s, 1H), 8.97-8.90 (m, 1H), 8.84-8.69 (m, 1H), 8.43 (d, J=6.6 Hz, 1H), 8.31 (s, 2H), 7.74-7.65 (m, 2H), 7.56 (s, 1H), 7.45-7.38 (m, 2H), 3.88-3.76 (m, 1H), 3.59-3.46 (m, 2H), 3.43 (d, J=11.5 Hz, 2H), 3.36-3.25 (m, 2H), 3.13-3.03 (m, 2H), 3.03-2.95 (m, 1H), 2.12-2.03 (m, 3H), 2.03-1.95 (m, 1H), 1.94-1.81 (m, 2H), 1.81-1.65 (m, 2H) ppm.

reactant | benzyl [(3S)-1-(3-{[(3-{[(benzyloxy)carbonyl]amino}-7-bromoquinolin-2-yl)carbonyl]amino}pyridin-4-yl)piperidin-3-yl]carbamate | 0.0795 mmol, 56.4 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)Br)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C36H33BrN6O5
reactant | benzyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.140 mmol, 48.2 mg | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C19H26BNO4
reactant | K3PO4 | 0.252 mmol, 53.4 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | chloro(2-dicyclohexylphosphino-2′,4′,6′-triisopropyl-1,1′-biphenyl)[2-(2′-amino-1,1′-biphenyl)]palladium(II) | 0.0041 mmol, 3.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC(=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)C2=CC=CC=C2N.Cl[Pd+]
catalyst | Pd on carbon | 0.0408 mmol, 43.4 mg | [Pd] | Pd
product | 3-Amino-N-{4-[(3S)-3-aminopiperidin-1-yl]pyridin-3-yl}-7-piperidin-4-ylquinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)C1CCNCC1)C(=O)NC=1C=NC=CC1N1C[C@H](CCC1)N | C25H31N7O
